US04388317
Bis-dimethylaminomethane (1.23 g,) was added whilst stirring 2-[2-(2-furanylmethylthio)ethylamino]-5-(2-furanylmethyl)-4-pyrimidone (0.8 g) was suspended in glacial acetic acid (8 ml). The mixture was then stirred at room temperature for 3 hr and allowed to stand for ca 16 hr. The acid was evaporated at reduced pressure azeotropically with water. The residual oil was dissolved in water, filtered and the filtrate taken to pH 9 using aqueous sodium carbonate solution. The basic solution was extracted using ethyl acetate, the extracts dried (MgSO4) and evaporated to give 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone as an oily residue (1.01 g). The oily residue was dissolved in a minimum volume of ethanol and then acidified with ethanolic hydrochloric acid. The acidic solution was then evaporated to dryness and the residual oil was crystallised from isopropanol/ethanol to give the white solid trihydrochloride salt (1.33 g) m.p. 177°-9° C.

reactant | Bis-dimethylaminomethane | 1.23 g | CN(C)CN(C)C | C5H14N2
reactant | 2-[2-(2-furanylmethylthio)ethylamino]-5-(2-furanylmethyl)-4-pyrimidone | 0.8 g | O1C(=CC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1OC=CC1 | C16H17N3O3S
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1OC(=CC1)CN(C)C | C22H31N5O3S
